US08877759B2
Preparation 29. Synthesis of Di tert-butyl 2-[4-(hydroxymethyl)phenyl]piperazine-1,4-dicarboxylate
Di tert-butyl 2-(4-methoxycarbonylphenyl)piperazine-1,4-dicarboxylate (1.03 g, 2.449 mmol) was dissolved in tetrahydrofuran (10.30 mL) and lithium boranuide (106.7 mg, 4.898 mmol) was added portion wise. The reaction was heated at 65° C. over 18 hours. The reaction mixture was cooled to ambient temperature then poured onto crushed ice and whilst stirring 1 M hydrochloric acid was added drop wise until no effervescence was observed. The mixture was stirred for 1 hour then saturated aqueous sodium bicarbonate was added until the mixture was at pH 8. The aqueous layer was extracted with ethyl acetate (×3) and the combined organic extracts were washed with brine, dried over MgSO4, filtered and concentrated in vacuo. Purified by column chromatography (ISCO Companion, 40 g column) loaded with dichloromethane and eluted with 10 to 100% ethyl acetate/petroleum ether. Product fractions were combined and concentrated in vacuo to give the sub-title product as a white solid. (754 mg, 78.4% yield). 1H NMR (400.0 MHz, CDCl3) δ 1.45-1.48 (m, 18H), 2.99 (br s, 2H), 3.33-3.37 (m, 1H), 3.95-3.98 (m, 2H), 4.45-4.48 (m, 1H), 4.70 (d, 2H), 5.30 (br s, 1H) and 7.33-7.35 (m, 4H) ppm; TLC (petroleum ether:ethyl acetate, 1:1 v/v) Rf=0.48

reactant | Di tert-butyl 2-(4-methoxycarbonylphenyl)piperazine-1,4-dicarboxylate | 2.449 mmol, 1.03 g | COC(=O)C1=CC=C(C=C1)C1N(CCN(C1)C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C22H32N2O6
reactant | lithium boranuide | 4.898 mmol, 106.7 mg | [BH4-].[Li+]
reactant | hydrochloric acid | 1 M | Cl | ClH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 10.30 mL | O1CCCC1 | C4H8O
product | Di tert-butyl 2-[4-(hydroxymethyl)phenyl]piperazine-1,4-dicarboxylate | 78.4% yield | OCC1=CC=C(C=C1)C1N(CCN(C1)C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C21H32N2O5
